US06043366
8-Cyclodecyl-3-methyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1)
The title compound, white solid, m.p. 248° C. (dec.) and MS: m/e=384.3 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4 ,5]decan-4-one hydrochloride and methyl iodide.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4 ,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | methyl iodide | CI | CH3I
product | 8-Cyclodecyl-3-methyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)C)=O)CC1 | InChI=1S/C24H37N3O.ClH/c1-25-20-27(22-14-10-7-11-15-22)24(23(25)28)16-18-26(19-17-24)21-12-8-5-3-2-4-6-9-13-21;/h7,10-11,14-15,21H,2-6,8-9,12-13,16-20H2,1H3;1H
